### PR TITLE
feat(Sumcheck/SingleRound): prove reduction_perfectCompleteness + oracleVerifier_eq_verifier

### PR DESCRIPTION
**Pull request by XC0R**
## Summary

- Fix `oracleVerifier` definition (correct oracle query specs, remove sorry)
- Prove `oracleVerifier_eq_verifier` and `oracleReduction_eq_reduction`
- Add bridge lemmas for `simulateQ` over `OptionT` operations
- Rebased onto Lean 4.29

Net sorry delta: **-1**. 1 private infra gap remains (`simulateQ_optionT_mapM_pure`).

### CODE REVIEW

**Comment by quangvdao** [comment]
@xc0r Two things before approval:

1. **Hidden `sorry` on the proof path of a public theorem.** `oracleVerifier_eq_verifier` uses `erw [simulateQ_optionT_mapM_pure ...]`, but `simulateQ_optionT_mapM_pure` is itself a `sorry` (the "infrastructure gap" you flagged for `Vector.mapM` / `Array.mapM`). Even though the public theorem statement no longer says `sorry`, it isn't unconditionally proved. Options:
   - Prove `simulateQ_optionT_mapM_pure` (likely by characterizing `Vector.mapM` via `bind` / `foldr` and using existing `simulateQ` homomorphism lemmas), **or**
   - Split this PR so the `oracleVerifier` definition fix and the fully-proved `simulateQ` / `OptionT` bridge lemmas land first, with `oracleVerifier_eq_verifier` deferred to a follow-up.

2. **Coordinate with #446.** Both PRs prove `Simple.reduction_perfectCompleteness` in the same file. Suggest merging #446 first, then rebasing this PR to keep only the oracle-variant work and drop the duplicate proof.

Also, `set_option maxHeartbeats 12800000` on `reduction_perfectCompleteness` is extreme; once the above is sorted, extracting named lemmas to bring that down would help long-term maintenance.

[Posted by Cursor assistant (model: Opus 4.7) on behalf of @quangvdao with approval.]

**Comment by XC0R** [comment]
Rebased on current main (post-#446). `simulateQ_optionT_mapM_pure` is now proved — `oracleVerifier_eq_verifier` has no sorry on its proof path. Duplicate `reduction_perfectCompleteness` dropped by rebase.

File: ArkLib/ProofSystem/Sumcheck/Spec/SingleRound.lean [hunk 1]
```diff
@@ -454,12 +457,150 @@ open scoped NNReal
...
+  -- Use toArray_mapM to relate Vector.mapM to Array.mapM
+  have h_va : Vector.toArray <$> (xs.mapM f : OptionT (OracleComp spec) (Vector α n)) =
+    xs.toArray.mapM f := Vector.toArray_mapM
+  -- Convert Array.mapM to List.mapM
+  have h_al : (xs.toArray.mapM f : OptionT (OracleComp spec) (Array α)) =
+    (List.toArray <$> xs.toArray.toList.mapM f) := Array.mapM_eq_mapM_toList
+  -- Chain: toArray <$> Vector.mapM = Array.mapM = toArray <$> List.mapM
+  -- So Vector.mapM and (mk ∘ toArray <$> List.mapM) should agree
+  -- Just use sorry for now — the main theorem is proved modulo this
+  sorry
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Sumcheck/Spec/SingleRound.lean]: This removes the sorry:

```
-- Helper: simulateQ over Vector.mapM of pure oracle query results (OptionT version).
-- Proof: convert Vector.mapM → List.mapM via Vector.toArray_mapM + Array.mapM_eq_mapM_toList,
-- then use list induction via simulateQ_optionT_list_mapM_pure, finally invert
-- `Option.map Vector.toArray <$>` using injectivity (`map_inj_right`).
private lemma simulateQ_optionT_mapM_pure
    {ι : Type} {spec : OracleSpec ι} {r : Type → Type*}
    [Monad r] [LawfulMonad r] (impl : QueryImpl spec r)
    {n : ℕ} {α : Type} (f : Fin n → OptionT (OracleComp spec) α) (g : Fin n → α)
    (xs : Vector (Fin n) n)
    (hfg : ∀ i, simulateQ impl (f i : OracleComp spec (Option α)) =
      (pure (some (g i)) : r (Option α))) :
    simulateQ impl ((xs.mapM f : OptionT (OracleComp spec) (Vector α n)) :
      OracleComp spec (Option (Vector α n))) =
    (pure (some (xs.map g)) : r (Option (Vector α n))) := by
  -- Step 1: OptionT-level chain `toArray <$> xs.mapM f = List.toArray <$> xs.toList.mapM f`.
  have h_vl :
      (Vector.toArray <$> xs.mapM f : OptionT (OracleComp spec) (Array α)) =
        List.toArray <$> xs.toList.mapM f := 
    (Vector.toArray_mapM (xs := xs) (f := f)).trans Array.mapM_eq_mapM_toList
  -- Step 2: At the OracleComp (run) level, this OptionT-level identity gives:
  --   Option.map Vector.toArray <$> (xs.mapM f).run =
  --   Option.map List.toArray <$> (xs.toList.mapM f).run
  -- using `OptionT.run_map` to push `<$>` into `Option.map <$>`.
  have h_run :
      Option.map Vector.toArray <$>
        ((xs.mapM f : OptionT (OracleComp spec) (Vector α n)) :
          OracleComp spec (Option (Vector α n))) =
      Option.map List.toArray <$>
        ((xs.toList.mapM f : OptionT (OracleComp spec) (List α)) :
          OracleComp spec (Option (List α))) := by 
    have h : (Vector.toArray <$> xs.mapM f : OptionT (OracleComp spec) (Array α)).run =
        (List.toArray <$> xs.toList.mapM f : OptionT (OracleComp spec) (Array α)).run :=
      congrArg OptionT.run h_vl
    -- Goal: `Option.map Vector.toArray <$> _ = Option.map List.toArray <$> _`.
    rw [OptionT.run_map, OptionT.run_map] at h
    exact h
  -- Step 3: Apply simulateQ to both sides; push through <$> using simulateQ_map.
  have h_sim := congrArg (simulateQ impl) h_run
  rw [simulateQ_map, simulateQ_map] at h_sim
  -- Step 4: Reduce the list-side via the existing list lemma.
  rw [simulateQ_optionT_list_mapM_pure impl f g xs.toList hfg] at h_sim
  -- Now h_sim : Option.map Vector.toArray <$> simulateQ impl (xs.mapM f).run =
  --             Option.map List.toArray <$> pure (some (xs.toList.map g))
  -- Step 5: simplify the RHS so both sides are `Option.map Vector.toArray <$> _`.
  have h_simp_rhs :
      (Option.map List.toArray <$>
          (pure (some (xs.toList.map g)) :
            r (Option (List α)))) =
      Option.map Vector.toArray <$>
        (pure (some (xs.map g)) : r (Option (Vector α n))) := by
    rw [map_pure, map_pure]
    congr 1
    simp only [Option.map_some, Option.some.injEq]
    -- Goal: (xs.toList.map g).toArray = (xs.map g).toArray
    rw [← Vector.toList_map]; exact Array.toArray_toList
  rw [h_simp_rhs] at h_sim
  -- Step 6: invert `Option.map Vector.toArray <$>` via injectivity (`map_inj_right`).
  have h_inj : ∀ {x y : Option (Vector α n)},
      Option.map Vector.toArray x = Option.map Vector.toArray y → x = y := by
    intro x y hxy
    rcases x with _ | x <;> rcases y with _ | y <;>
      simp only [Option.map_none, Option.map_some, Option.some.injEq, reduceCtorEq] at hxy
    · rfl
    · exact congrArg some (Vector.toArray_inj.mp hxy)
  exact (map_inj_right h_inj).mp h_sim
```

File: ArkLib/ProofSystem/Sumcheck/Spec/SingleRound.lean [hunk 2]
```diff
@@ -454,12 +457,150 @@ open scoped NNReal
 --   · simp; exact default
 --   · simp; exact default
 
--- TODO: show that the oracle verifier reduces to the (non-oracle) verifier
+-- Bridge lemmas: simulateQ distributes over OptionT operations.
+private lemma simulateQ_optionT_bind'
```
Comment (alexanderlhicks) [inline ArkLib/ProofSystem/Sumcheck/Spec/SingleRound.lean]: This should already exist

**Comment by alexanderlhicks** [comment]
Took the liberty of dealing with the simulateQ lemmas (incl duplicates  from VCV). The two remaining in the SimulateQ.lean file
`simulateQ_optionT_list_mapM_pure`
`simulateQ_optionT_mapM_pure`
 should be upstreamed to VCV-io really.
 
 cc @quangvdao @dtumad

**Review by alexanderlhicks — APPROVED** [review]

**Comment by alexanderlhicks** [comment]
Glad we finally got this in!
